* SPICE3 file created from inverter.ext - technology: scmos
.model pfet pmos level=1 vto=-0.7 kp=20u
.model nfet nmos level=1 vto=0.7  kp=50u

.option scale=1u

M1000 out in vdd vdd pfet w=10 l=3
M1001 out in 0 0 nfet w=8 l=3

C0 vdd in 2.10fF
C2 out 0 3.57fF
C3 in 0 8.54fF

v1 vdd 0 1.8
vin in 0 pulse(0 1.8 5n 1n 1n 20n 50n)

.tran 5n 200n
.control
run 
plot V(in) V(out)
.endc
.end
