* NGSPICE file created from inverter.ext - technology: scmos

.global Vdd Gnd 


* Top level circuit inverter

M1000 out in vdd vdd pfet w=10u l=3u
+  ad=110p pd=42u as=70p ps=34u
M1001 out in gnd_ Gnd nfet w=8u l=3u
+  ad=80p pd=36u as=56p ps=30u
.end

